US07622583B2
To a solution of 3-amino-pyrazine-2-carboxylic acid methyl ester (153 mg, 1.0 mmol) in 2.0 mL of pyridine was added 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride (279 mg, 1.0 mmol) in 1.0 mL of pyridine. The mixture was stirred at room temperature for 16 h, diluted with 15 mL of ethyl acetate, washed twice with 1 M HCl (15 mL), dried on MgSO4 and the solvent was evaporated. The product was purified on silica gel column (15% ethyl acetate in hexane) to afford 185 mg of 3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyrazine-2-carboxylic acid methyl ester as white powder. MS: (M+H)/z=396.0.

reactant | 3-amino-pyrazine-2-carboxylic acid methyl ester | 1.0 mmol, 153 mg | COC(=O)C1=NC=CN=C1N | C6H7N3O2
reactant | 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride | 1.0 mmol, 279 mg | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
solvent | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyrazine-2-carboxylic acid methyl ester | 185 mg | COC(=O)C1=NC=CN=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H9ClF3N3O4S
